Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Zoloft / Codeine / Percodan / Vicodin / Motrin / 
omeprazole
 
Attending: ___.
 
Chief Complaint:
back and bilateral leg pain, numbness to feet and toes
 
Major Surgical or Invasive Procedure:
L2-L5 laminectomy and L4-L5 noninstrumented fusion. 

 
History of Present Illness:
___ is a pleasant lady who is seen today for a followup 
visit for lumbar spinal stenosis. She says that her leg symptoms 
have been getting worse. She wants to have surgical treatment 
done. Initially, she was going to wait until next year. Her 
examination neurologic examination is unchanged. Her MRI does 
show presence of severe spinal stenosis at L3-L4, L4-L5 and 
moderate lateral recess stenosis at L2-L3. Considering this, she 
would like to go ahead with surgery which would include L2-L5 
laminectomy with possible non-instrumented fusion. Lumbar spine 
MRI and radiographs were reviewed. She has L2-L3 moderate 
bilateral lateral recess stenosis at L3-L4 and L4-L5, severe 
lateral recess stenosis and moderate-to-severe central stenosis. 
She does not have any significant instability on the 
radiographs. She has marginal spondylolisthesis at L4-L5.
 
Past Medical History:
CHRONIC OBSTRUCTIVE PULMONARY DISEASE  
NOCTURNAL HYPOXEMIA  
SLEEP APNEA  
SMOKING  
MACULAR DEGENERATION  
ADENOMATOUS POLYP  
DEPRESSION  
LACTOSE INTOLERANCE  
PULMONARY NODULES  
ROTATOR CUFF TEARS BILATERALLY  
SPINAL STENOSIS  
COLLAGENOUS COLITIS  
PROBABLE DISORDERED EATING IN PAST  
ATYPICAL CHEST PAIN  
INTOLERANCE OF PAIN MEDICATION  
PRESYNCOPE  
PERIPHERAL NEUROPATHY  
NAUSEA, ABD PAIN  
HYPERGLYCEMIA  
 
Social History:
___
Family History:
Father died at age ___. CAD, diabetes, prostate cancer  
Mother died at age ___, rheumatic heart disease, asthma, 
endocarditis  
sister living, age ___ spinge stenosis, hypertension, 
osteoporosis, non-melanoma skin cancer  
brother age ___ hypertension  
 
Physical Exam:
 AVSS
 Well appearing, NAD, comfortable
 All fingers WWP, brisk capillary refill, 2+ distal pulses
 BLE: SILT L1-S1 dermatomal distributions
 BLE: ___ ___
 All toes WWP, brisk capillary refill, 2+ distal pulses
 
Pertinent Results:
___ 07:30AM BLOOD WBC-14.5*# RBC-3.49* Hgb-10.9*# Hct-33.5* 
MCV-96 MCH-31.2 MCHC-32.5 RDW-13.5 RDWSD-47.7* Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-78 UreaN-6 Creat-0.7 Na-136 K-3.7 
Cl-101 HCO3-24 AnGap-15
___ 07:30AM BLOOD Calcium-7.7* Phos-2.7 Mg-2.1

CXR ___
In comparison with the study of ___, the cardiac silhouette 
remains within normal limits and there is no vascular congestion 
or pleural effusion. Hyperexpansion of the lungs again is 
consistent with chronic pulmonary disease. There is the vague 
suggestion of some asymmetric opacification in the right upper 
zone. In the appropriate clinical setting, aspiration pneumonia 
could be considered. 

 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.

Ms. ___ oxygenation has remained in the low 90's. Currently 
92% on RA. She remains afebrile. Her CXR on ___ shows no 
vascular congestion or pleural effusion. She has known COPD with 
XR indicating so. She is also a smoker with a known lung nodule 
followed by a pulmonologist as an outpatient. Ms. ___ should 
continue to mobilize, and use incentive spirometry at rehab. Ms. 
___ should return to the ED if she develops shortness of 
breath, decreased oxygenation or fever. 

Hospital course was otherwise unremarkable.On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet.
 
Medications on Admission:
Duloxetine
Albuterol/Atrovent
Ativan
Prempro
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H pain  
2.  Docusate Sodium 100 mg PO BID 
please take while taking narcotics  
3.  Morphine Sulfate ___ 15 mg PO Q4H:PRN Pain - Moderate 
please do not operate heavy machinery, drink alcohol or drive 
RX *morphine 15 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
4.  Pregabalin 75 mg PO Q12H  
5.  DULoxetine 60 mg PO DAILY  
6.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing  
7.  LORazepam 1 mg PO QHS:PRN insomnia  
8.  Nicotine Patch 21 mg TD DAILY  
9.  Prempro (conj estrog-medroxyprogest ace) 0.3-1.5 mg oral 
DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Lumbar degenerative disc disease.
2. Lumbar spinal listhesis at L4-5.
3. Lumbar spinal stenosis L2 to L5.
4. Neurogenic claudication.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar Decompression With Fusion:

You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery, do not get the incision wet.Cover it with a sterile 
dressing.Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___ 2.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:
                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.
                At the 2-week visit we will check your 
incision,take baseline X-rays and answer any questions.We may at 
that time start physical therapy

                We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Remove the dressing in 2 days.If the incision is draining cover 
it with a new sterile dressing.If it is dry then you can leave 
the incision open to the air.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower.Do 
not soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery, do not get the incision 
wet.Cover it with a sterile dressing.Call the office.

Ms. ___ oxygenation has remained in the low 90's during her 
hospital course. Currently 92% on RA. She remains afebrile. Her 
CXR on ___ shows no vascular congestion or pleural effusion. 
She has known COPD with XR indicating so. She is also a smoker 
with a known lung nodule followed by a pulmonologist as an 
outpatient. Ms. ___ should continue to mobilize, and use 
incentive spirometry at rehab. Ms. ___ should return to the 
ED if she develops shortness of breath, decreased oxygenation or 
fever.

 
Followup Instructions:
___